US06420385B1
5-(4-Fluorophenyl)-2-(((S)-2-hydroxyacetamido-3-phenylpropyl)-amino)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone:
Acetoxyacetyl chloride (55 μl, 0.51 mmol) was added at ice-bath temperature to a stirring solution of 2-(((S)-2-amino-3-phenylpropyl)-amino)-5-(4-fluoro phenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone (200 mg, 0.466 mmol) and triethylamine (130 μl, 0.93 mmol) in dichloromethane (4 ml). After 50 min, the reaction was quenched by the addition of a drop of methanol followed by evaporation. The resultant material was taken up in a 1:1:1 mixture of methanol/water/triethylamine (3 ml) and left overnight. Evaporation and subsequent column chromatography (3-7% methanol/chloroforme) provided the title compound. MS (m/z): 488.3 (M+H)+; C27H26FN5O3 requir. 487.5.

reactant | Acetoxyacetyl chloride | 0.51 mmol, 55 μl | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 2-(((S)-2-amino-3-phenylpropyl)-amino)-5-(4-fluoro phenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.466 mmol, 200 mg | N[C@H](CNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)CC1=CC=CC=C1 | C25H24FN5O
reactant | triethylamine | 0.93 mmol, 130 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 5-(4-Fluorophenyl)-2-(((S)-2-hydroxyacetamido-3-phenylpropyl)-amino)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)NCC[C@@H](C1=CC=CC=C1)NC(CO)=O)C)=O | C27H26FN5O3
